US07390923B2
3-(3-Chloro-4-fluorophenoxy)-2-hydroxy-2-methyl-N-(2-methyl-3-nitrophenyl)propionamide was prepared as described in Example 1 starting from 3-chloro-4-fluorophenol and 2-methyloxirane-2-carboxylic acid (2-methyl-3-nitrophenyl)amide. The crude product was purified by flash chromatography (dichloromethane-1% methanol). 1H NMR (400 MHz, DMSO-d6): 1.44 (3H, s), 2.27 (3H, s), 3.99 (1H, d, J=9.8 Hz), 4.23 (1H, d, J=9.8 Hz), 6.15 (1H, s), 6.92-6.97 (1H, m), 7.17-7.20 (1H, m), 7.29-7.35 (1H, m), 7.41-7.46 (1H, m), 7.66-7.69 (1H, m), 7.72-7.75 (1H, m), 9.72 (1H, s).

reactant | 3-chloro-4-fluorophenol | ClC=1C=C(C=CC1F)O | C6H4ClFO
reactant | 2-methyloxirane-2-carboxylic acid (2-methyl-3-nitrophenyl)amide | CC1=C(C=CC=C1[N+](=O)[O-])NC(=O)C1(OC1)C | C11H12N2O4
product | 3-(3-Chloro-4-fluorophenoxy)-2-hydroxy-2-methyl-N-(2-methyl-3-nitrophenyl)propionamide | ClC=1C=C(OCC(C(=O)NC2=C(C(=CC=C2)[N+](=O)[O-])C)(C)O)C=CC1F | C17H16ClFN2O5
